US08293768B2
Synthesis of 4-((3-(5-acetyl-4-methylthiazol-2-yl)-2-oxoimidazolidin-1-yl)methyl)benzoic acid
Following the procedure as described in Example 6, making variations as required to replace ethyl 4-methyl-2-(2-oxo-3-phenylimidazolidin-1-yl)thiazole-5-carboxylate with methyl 4-((3-(5-acetyl-4-methylthiazol-2-yl)-2-oxoimidazolidin-1-yl)methyl)benzoate, the title compound was obtained in 85% yield: 1H NMR (300 MHz, DMSO-d6) δ 12.89 (br s, 1H), 7.90 (d, J=7.5 Hz, 2H), 7.39 (d, J=7.5 Hz, 2H), 4.49 (s, 2H), 4.05-3.90 (m, 2H), 3.52-3.40 (m, 2H), 2.51 (s, 3H), 2.42 (s, 3H); MS (ES+) m/z 360.1 (M+1).

reactant | ethyl 4-methyl-2-(2-oxo-3-phenylimidazolidin-1-yl)thiazole-5-carboxylate | CC=1N=C(SC1C(=O)OCC)N1C(N(CC1)C1=CC=CC=C1)=O | C16H17N3O3S
reactant | methyl 4-((3-(5-acetyl-4-methylthiazol-2-yl)-2-oxoimidazolidin-1-yl)methyl)benzoate | C(C)(=O)C1=C(N=C(S1)N1C(N(CC1)CC1=CC=C(C(=O)OC)C=C1)=O)C | C18H19N3O4S
product | 4-((3-(5-acetyl-4-methylthiazol-2-yl)-2-oxoimidazolidin-1-yl)methyl)benzoic acid | 85% yield | C(C)(=O)C1=C(N=C(S1)N1C(N(CC1)CC1=CC=C(C(=O)O)C=C1)=O)C | C17H17N3O4S
